** Name: SymmetricalOpAmp186

.MACRO SymmetricalOpAmp186 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=35e-6
mDiodeTransistorNmos2 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=8e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=12e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=16e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=137e-6
mNormalTransistorNmos6 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=6e-6 W=80e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=8e-6 W=35e-6
mNormalTransistorNmos8 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=6e-6 W=481e-6
mNormalTransistorNmos9 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=137e-6
mNormalTransistorNmos10 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=8e-6 W=286e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=455e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance inOutputStageBiasComplementarySecondStage FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=6e-6 W=66e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=120e-6
mNormalTransistorNmos14 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=120e-6
mNormalTransistorPmos15 inOutputStageBiasComplementarySecondStage inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=66e-6
mNormalTransistorPmos16 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=251e-6
mNormalTransistorPmos17 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=2e-6 W=69e-6
mNormalTransistorPmos18 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=2e-6 W=69e-6
mNormalTransistorPmos19 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=2e-6 W=251e-6
mNormalTransistorPmos20 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=65e-6
mNormalTransistorPmos21 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=64e-6
mNormalTransistorPmos22 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=157e-6
mNormalTransistorPmos23 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=157e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp186

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 3.04001 mW
** Area: 14901 (mu_m)^2
** Transit frequency: 33.0081 MHz
** Transit frequency with error factor: 33.0085 MHz
** Slew rate: 31.6943 V/mu_s
** Phase margin: 60.1606°
** CMRR: 145 dB
** negPSRR: 52 dB
** posPSRR: 47 dB
** VoutMax: 4.25 V
** VoutMin: 0.460001 V
** VcmMax: 5.17001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 9.86301 muA
** NormalTransistorNmos: 81.2261 muA
** NormalTransistorPmos: -53.9649 muA
** NormalTransistorPmos: -65.2349 muA
** NormalTransistorPmos: -65.2359 muA
** NormalTransistorPmos: -65.2349 muA
** NormalTransistorPmos: -65.2359 muA
** NormalTransistorNmos: 130.468 muA
** NormalTransistorNmos: 130.467 muA
** NormalTransistorNmos: 65.2341 muA
** NormalTransistorNmos: 65.2341 muA
** NormalTransistorNmos: 160.526 muA
** NormalTransistorNmos: 160.525 muA
** NormalTransistorPmos: -160.525 muA
** NormalTransistorPmos: -160.524 muA
** NormalTransistorNmos: 161.877 muA
** NormalTransistorNmos: 161.876 muA
** NormalTransistorPmos: -161.876 muA
** NormalTransistorPmos: -161.875 muA
** DiodeTransistorNmos: 53.9641 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -9.86399 muA
** DiodeTransistorPmos: -81.2269 muA


** Expected Voltages: 
** ibias: 0.569001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 1.09301  V
** inSourceTransconductanceComplementarySecondStage: 4.19701  V
** innerComplementarySecondStage: 0.713001  V
** inputVoltageBiasXXpXX0: 4.00701  V
** out: 2.5  V
** out1FirstStage: 4.19801  V
** out2FirstStage: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.312001  V
** innerTransistorStack1Load1: 4.42001  V
** innerTransistorStack2Load1: 4.42001  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.534001  V
** innerTransconductance: 4.75801  V
** inner: 0.308001  V
** inner: 4.76001  V


.END