** Name: SymmetricalOpAmp188

.MACRO SymmetricalOpAmp188 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=12e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=132e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=29e-6
mNormalTransistorNmos6 innerComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=132e-6
mNormalTransistorNmos7 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage nmos4 L=1e-6 W=48e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=29e-6
mNormalTransistorNmos9 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=230e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=230e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=74e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=137e-6
mNormalTransistorPmos13 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=407e-6
mNormalTransistorPmos14 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=407e-6
mNormalTransistorPmos15 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=137e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=17e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=17e-6
mNormalTransistorPmos18 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=51e-6
mNormalTransistorPmos19 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=51e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp188

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 2.80301 mW
** Area: 6385 (mu_m)^2
** Transit frequency: 34.8201 MHz
** Transit frequency with error factor: 34.8202 MHz
** Slew rate: 32.7365 V/mu_s
** Phase margin: 67.6091°
** CMRR: 144 dB
** negPSRR: 116 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.990001 V
** VcmMax: 4.81001 V
** VcmMin: 1.38001 V


** Expected Currents: 
** NormalTransistorNmos: 109.517 muA
** NormalTransistorPmos: -55.2349 muA
** NormalTransistorPmos: -55.2339 muA
** NormalTransistorPmos: -55.2349 muA
** NormalTransistorPmos: -55.2339 muA
** NormalTransistorNmos: 110.47 muA
** NormalTransistorNmos: 110.469 muA
** NormalTransistorNmos: 55.2351 muA
** NormalTransistorNmos: 55.2351 muA
** NormalTransistorNmos: 165.297 muA
** DiodeTransistorNmos: 165.296 muA
** NormalTransistorPmos: -165.296 muA
** NormalTransistorPmos: -165.297 muA
** NormalTransistorNmos: 165.297 muA
** NormalTransistorPmos: -165.296 muA
** NormalTransistorPmos: -165.297 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -109.516 muA


** Expected Voltages: 
** ibias: 1.15801  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** inStageBiasComplementarySecondStage: 0.788001  V
** innerComplementarySecondStage: 1.39401  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.487001  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END