** Name: SymmetricalOpAmp189

.MACRO SymmetricalOpAmp189 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=106e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=2e-6 W=106e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos5 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=189e-6
mNormalTransistorNmos7 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=2e-6 W=106e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=189e-6
mNormalTransistorNmos9 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=132e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=240e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=85e-6
mNormalTransistorNmos12 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=106e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=297e-6
mNormalTransistorPmos14 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=402e-6
mNormalTransistorPmos15 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=402e-6
mNormalTransistorPmos16 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=297e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=56e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=56e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=75e-6
mNormalTransistorPmos20 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=75e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp189

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 3.53401 mW
** Area: 5127 (mu_m)^2
** Transit frequency: 33.7271 MHz
** Transit frequency with error factor: 33.7274 MHz
** Slew rate: 32.1337 V/mu_s
** Phase margin: 65.3172°
** CMRR: 144 dB
** negPSRR: 145 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.780001 V
** VcmMax: 4.81001 V
** VcmMin: 1.37001 V


** Expected Currents: 
** NormalTransistorNmos: 131.994 muA
** NormalTransistorPmos: -119.992 muA
** NormalTransistorPmos: -119.993 muA
** NormalTransistorPmos: -119.992 muA
** NormalTransistorPmos: -119.993 muA
** NormalTransistorNmos: 239.984 muA
** NormalTransistorNmos: 239.983 muA
** NormalTransistorNmos: 119.993 muA
** NormalTransistorNmos: 119.993 muA
** NormalTransistorNmos: 162.455 muA
** DiodeTransistorNmos: 162.454 muA
** NormalTransistorPmos: -162.454 muA
** NormalTransistorPmos: -162.453 muA
** DiodeTransistorNmos: 162.455 muA
** NormalTransistorNmos: 162.454 muA
** NormalTransistorPmos: -162.454 muA
** NormalTransistorPmos: -162.453 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -131.993 muA


** Expected Voltages: 
** ibias: 1.14601  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.595001  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 1.19001  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.482001  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.40001  V
** inner: 0.594001  V
** inner: 4.40001  V


.END