** Name: SymmetricalOpAmp192

.MACRO SymmetricalOpAmp192 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=88e-6
mDiodeTransistorNmos2 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=11e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=4e-6 W=225e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=216e-6
mDiodeTransistorPmos5 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=151e-6
mNormalTransistorNmos7 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=4e-6 W=297e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=151e-6
mNormalTransistorNmos9 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=110e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=216e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=88e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=11e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=239e-6
mNormalTransistorPmos14 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=509e-6
mNormalTransistorPmos15 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=509e-6
mNormalTransistorPmos16 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=239e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=30e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=30e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=63e-6
mNormalTransistorPmos20 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=63e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp192

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 3.56101 mW
** Area: 8396 (mu_m)^2
** Transit frequency: 42.1141 MHz
** Transit frequency with error factor: 42.1138 MHz
** Slew rate: 40.2025 V/mu_s
** Phase margin: 65.3172°
** CMRR: 144 dB
** negPSRR: 119 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.920001 V
** VcmMax: 4.81001 V
** VcmMin: 1.42001 V


** Expected Currents: 
** NormalTransistorNmos: 99.7091 muA
** NormalTransistorPmos: -96.6019 muA
** NormalTransistorPmos: -96.6029 muA
** NormalTransistorPmos: -96.6019 muA
** NormalTransistorPmos: -96.6029 muA
** NormalTransistorNmos: 193.203 muA
** DiodeTransistorNmos: 193.204 muA
** NormalTransistorNmos: 96.6011 muA
** NormalTransistorNmos: 96.6011 muA
** NormalTransistorNmos: 204.693 muA
** NormalTransistorNmos: 204.692 muA
** NormalTransistorPmos: -204.692 muA
** NormalTransistorPmos: -204.691 muA
** DiodeTransistorNmos: 204.691 muA
** DiodeTransistorNmos: 204.69 muA
** NormalTransistorPmos: -204.69 muA
** NormalTransistorPmos: -204.691 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -99.7099 muA


** Expected Voltages: 
** ibias: 1.27001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.735001  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 1.34701  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.636001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94401  V
** innerStageBias: 0.761001  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V
** inner: 0.633001  V


.END