** Name: SymmetricalOpAmp195

.MACRO SymmetricalOpAmp195 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=15e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=83e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=408e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=140e-6
mNormalTransistorNmos6 innerComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=83e-6
mNormalTransistorNmos7 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage nmos4 L=1e-6 W=30e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=140e-6
mNormalTransistorNmos9 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=149e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=408e-6
mNormalTransistorNmos11 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=15e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=332e-6
mNormalTransistorPmos13 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=401e-6
mNormalTransistorPmos14 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=401e-6
mNormalTransistorPmos15 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=332e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=62e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=62e-6
mNormalTransistorPmos18 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=76e-6
mNormalTransistorPmos19 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=76e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp195

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 3.51701 mW
** Area: 7040 (mu_m)^2
** Transit frequency: 34.4391 MHz
** Transit frequency with error factor: 34.4391 MHz
** Slew rate: 32.2738 V/mu_s
** Phase margin: 65.3172°
** CMRR: 143 dB
** negPSRR: 116 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.810001 V
** VcmMax: 4.81001 V
** VcmMin: 1.31001 V


** Expected Currents: 
** NormalTransistorNmos: 99.7841 muA
** NormalTransistorPmos: -133.912 muA
** NormalTransistorPmos: -133.913 muA
** NormalTransistorPmos: -133.912 muA
** NormalTransistorPmos: -133.913 muA
** NormalTransistorNmos: 267.826 muA
** DiodeTransistorNmos: 267.827 muA
** NormalTransistorNmos: 133.913 muA
** NormalTransistorNmos: 133.913 muA
** NormalTransistorNmos: 162.86 muA
** DiodeTransistorNmos: 162.859 muA
** NormalTransistorPmos: -162.859 muA
** NormalTransistorPmos: -162.86 muA
** NormalTransistorNmos: 162.86 muA
** NormalTransistorPmos: -162.859 muA
** NormalTransistorPmos: -162.86 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -99.7849 muA


** Expected Voltages: 
** ibias: 1.16301  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** inStageBiasComplementarySecondStage: 0.557001  V
** innerComplementarySecondStage: 1.21401  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.582001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94401  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V
** inner: 0.580001  V


.END